US07943622B2
Step 3. Synthesis of N-(2-methylbenzo[d]thiazol-5-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide hydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(2-methylbenzo[d]thiazol-5-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt (129.9 mg, 0.183 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were combined and brought to pH 12 with 1 N NaOH and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and 4 M HCl in 1,4-dioxane (1 equiv. HCl, 0.028 mL) was added. The mixture was concentrated under reduced pressure to give 44.6 mg (58%) of the title compound as the hydrochloride salt. LC-MS: RT=4.22 min, [M+H]+=384.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2-methylbenzo[d]thiazol-5-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt | 0.183 mmol, 129.9 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.CC=1SC2=C(N1)C=C(C=C2)NC(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 0.028 mL, 1 equiv | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | N-(2-methylbenzo[d]thiazol-5-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide hydrochloride | 44.6 mg, 58% | Cl.CC=1SC2=C(N1)C=C(C=C2)NC(=O)N2C(CNCC2)COC=2C=NC=CC2 | InChI=1S/C19H21N5O2S.ClH/c1-13-22-17-9-14(4-5-18(17)27-13)23-19(25)24-8-7-21-10-15(24)12-26-16-3-2-6-20-11-16;/h2-6,9,11,15,21H,7-8,10,12H2,1H3,(H,23,25);1H
